US09227956B2
ethyl 4-(4-{(3-chloropyridin-2-yl)[(3R)-piperidin-3-yl]carbamoyl}phenyl)-1-methyl-1H-pyrazole-5-carboxylate
The compound from Preparation 18 (R)-tert-Butyl 3-(N-(3-chloropyridin-2-yl)-4-(5-(ethoxycarbonyl)-1-methyl-1H-pyrazol-4-yl)benzamido)piperidine-1-carboxylate (145.87 g, 256.8 mmol) was dissolved in 1.4 L of DCM and then treated with hydrochloric acid (3 mol/L in cyclopentyl methyl ether, 428 mL, 1284 mmol). The reaction was stirred at room temperature for 19 h then 500 mL of DCM was added followed by warming to 40° C. and then filtering through Celite®. The filtrate was concentrated to 500 mL total volume in vacuo and then added to 1.4 L of EtOAc, resulting in precipitation of solids which were isolated via filtration. After drying, the hydrochloride salt of the title compound was isolated as an off-white solid (125.2 g, 97%).

reactant | (R)-tert-Butyl 3-(N-(3-chloropyridin-2-yl)-4-(5-(ethoxycarbonyl)-1-methyl-1H-pyrazol-4-yl)benzamido)piperidine-1-carboxylate | 256.8 mmol, 145.87 g | ClC=1C(=NC=CC1)N(C(C1=CC=C(C=C1)C=1C=NN(C1C(=O)OCC)C)=O)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C29H34ClN5O5
reactant | hydrochloric acid | 1284 mmol, 3 mol/L, 428 mL | Cl | ClH
solvent | DCM | 1.4 L | C(Cl)Cl | CH2Cl2
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
product | ethyl 4-(4-{(3-chloropyridin-2-yl)[(3R)-piperidin-3-yl]carbamoyl}phenyl)-1-methyl-1H-pyrazole-5-carboxylate | ClC=1C(=NC=CC1)N(C(=O)C1=CC=C(C=C1)C=1C=NN(C1C(=O)OCC)C)[C@H]1CNCCC1 | C24H26ClN5O3
